### PR TITLE
feat(LocallyNameless/Untyped): `subst_intro` weaker precondition

### PR DESCRIPTION
**Pull request by lengyijun**
- New theorem `subst_intro_openRec`
- `subst_intro` no longer needs `LC t`
- `subst_intro` no longer needs `subst_fresh`
- `subst_intro` new proof based on `subst_intro_openRec`
- Updated `preservation_open` in STLC to take advantage of the weaker precondition

### CODE REVIEW

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean [hunk 1]
```diff
@@ -74,6 +74,16 @@ lemma subst_preserve_not_fvar {y : Var} (m n : Term Var) :
 lemma subst_refl (m : Term Var) (x : Var) : m[x := fvar x] = m := by
   induction m <;> grind
 
+lemma subst_intro_openrec {x} {t e : Term Var} (mem : x ∉ e.fv) {k : ℕ} :
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean]: The naming should be at least


```suggestion
lemma subst_intro_openRec {x} {t e : Term Var} (mem : x ∉ e.fv) {k : ℕ} :
```
for consistency

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean [hunk 2]
```diff
@@ -74,6 +74,16 @@ lemma subst_preserve_not_fvar {y : Var} (m n : Term Var) :
...
+  openRec k t e = (openRec k (fvar x) e) [ x := t ] := by
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/Properties.lean]: This signature should be indented four spaces and use the notation:

```suggestion
    e ⟦k ↝ t⟧ = (e ⟦ k ↝ fvar x⟧)[ x := t ]
```

**Review by chenson2018 — APPROVED** [review]
Thanks!
